US07517884B2
A mixture of methyl 4-(4-(3-bromo-4-chlorophenyl)-cis-2,6-dimethylpiperazin-1-ylsulfonyl)-2,3-dihydro-1H-indene-2(R,S)-carboxylate (194 mg, 0.36 mmol), 1N LiOH (2 mL), tetrahydrofuran (8 mL), and methanol (2 mL) was stirred at rt for 2 h. The reaction was poured into 1N HCl (40 mL) and extracted with ethyl acetate (40 mL×2). The combined organic extracts were dried, filtered, and concentrated to give 4-(4-(3-bromo-4-chlorophenyl)-cis-2,6-dimethylpiperazin-1-ylsulfonyl)-2,3-dihydro-1H-indene-2-carboxylic acid: 1H NMR (400 MHz, DMSO-d6): δ 12.30 (br s, 1H), 7.63 (d, 1H), 7.49 (d, 1H), 7.37-7.31 (m, 2H), 7.16 (d, 1H), 6.88 (dd, 1H), 4.04-3.97 (m, 1H), 3.95-3.87 (m, 1H), 3.52-3.44 (m, 2H), 3.40-3.28 (m, 3H), 3.24-3.10 (m, 2H), 2.75-2.64 (m, 2H), 1.35 (d, 6H); MS (ESI): 527.3 (M+H).

reactant | methyl 4-(4-(3-bromo-4-chlorophenyl)-cis-2,6-dimethylpiperazin-1-ylsulfonyl)-2,3-dihydro-1H-indene-2(R,S)-carboxylate | 0.36 mmol, 194 mg | BrC=1C=C(C=CC1Cl)N1C[C@@H](N([C@@H](C1)C)S(=O)(=O)C1=C2CC(CC2=CC=C1)C(=O)OC)C | C23H26BrClN2O4S
reactant | LiOH | 1N, 2 mL | [Li+].[OH-]
reactant | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
reactant | 4-(4-Trifluoromethyl-phenyl)-1,2,3,6-tetrahydro-pyridine | 1N, 40 mL | FC(C1=CC=C(C=C1)C=1CCNCC1)(F)F | C12H12F3N
solvent | methanol | 2 mL | CO | CH4O
product | 4-(4-(3-bromo-4-chlorophenyl)-cis-2,6-dimethylpiperazin-1-ylsulfonyl)-2,3-dihydro-1H-indene-2-carboxylic acid | BrC=1C=C(C=CC1Cl)N1C[C@@H](N([C@@H](C1)C)S(=O)(=O)C1=C2CC(CC2=CC=C1)C(=O)O)C | C22H24BrClN2O4S
